US07915443B2
(S)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]-5-({4-[(2-thienylcarbonyl)amino]phenyl}ethynyl)nicotinamide
In a 4 mL vial, thiophene-2-carboxylic acid (4-ethynyl-phenyl)-amide (0.100 g, 0.443 mmol) and (S)-5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide (100 mg, 0.295 mmol) were added and dissolved into EtOAc (2 mL). The mixture was then degassed for ˜20 min after which NEt3 (0.141 mL, 1.035 mmol) was added followed by Pd(PPh3)2Cl2 (20.7 mg, 0.0295 mmol) and CuI (2.8 mg, 0.148 mmol). The reaction mixture was allowed to stir at 50° C. for 3 hours after which the reaction mixture was extracted twice with EtOAc (˜5 mL) and of water (˜5 mL). The organic extracts were combined and dried over anhydrous Na2SO4(s) and then concentrated in vacuo. The crude residue was then purified by chromatography (silica gel, gradient elution, 25% EtOAc/hexanes to 100% EtOAc/hexanes). The product containing fractions were concentrated to give the title compound as a tan solid (87 mg, 0.18 mmol, 61%).

reactant | thiophene-2-carboxylic acid (4-ethynyl-phenyl)-amide | 0.443 mmol, 0.100 g | C(#C)C1=CC=C(C=C1)NC(=O)C=1SC=CC1 | C13H9NOS
reactant | (S)-5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 0.295 mmol, 100 mg | BrC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C13H11BrN2O2S
reactant | NEt3 | 1.035 mmol, 0.141 mL | CCN(CC)CC | C6H15N
catalyst | Pd(PPh3)2Cl2 | 0.0295 mmol, 20.7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.148 mmol, 2.8 mg | [Cu]I
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
product | (S)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]-5-({4-[(2-thienylcarbonyl)amino]phenyl}ethynyl)nicotinamide | 0.18 mmol, 87 mg, 61% | C[S@@](=NC(C1=CN=CC(=C1)C#CC1=CC=C(C=C1)NC(=O)C=1SC=CC1)=O)(C1=CC=CC=C1)=O | C26H19N3O3S2
